US07939533B2
(2S,4R)-2-(3,5-Bis-trifluoromethyl-phenyl)-N-[6′-(4-hydroxy-2-hydroxymethyl-pyrrolidin-1-yl)-2-methyl-[3,4′]bipyridinyl-3′-yl]-N-methyl-isobutyramide
A mixture of 0.12 g (0.48 mmol) trifluoro-methanesulfonic acid 2-methyl-pyridin-3-yl ester, 0.13 g (0.52 mmol) bis(pinacolato)diboron, 0.14 g (1.4 mmol) potassium acetate and 0.02 g (0.02 mmol) dichloro[1,1′-bis(diphenylphosphino) ferrocene]palladium(II) dichloromethane adduct in 2.5 ml N,N-dimethylformamide was heated at 80° C. over night under argon. After cooling to room temperature 0.10 g (0.16 mmol) (2S,4R)-2-(3,5-bis-trifluoromethyl-phenyl)-N-[6-(4-hydroxy-2-hydroxymethyl-pyrrolidin-1-yl)-4-iodo-pyridin-3-yl]-N-methyl-isobutyramide and 1.3 ml of a deoxygenated 2 M aqueous solution of sodium carbonate were added. The reaction mixture was heated at 80° C. for 6 h. After cooling to room temperature the mixture was diluted with water and extracted with three portions of tert-butyl methyl ether. The combined organic layers were dried over sodium sulfate and concentrated in vacuo. Flash column chromatography gave 37 mg (39%) of the title compound as an off-white solid.

reactant | trifluoro-methanesulfonic acid 2-methyl-pyridin-3-yl ester | 0.48 mmol, 0.12 g | CC1=NC=CC=C1OS(=O)(=O)C(F)(F)F | C7H6F3NO3S
reactant | bis(pinacolato)diboron | 0.52 mmol, 0.13 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 1.4 mmol, 0.14 g | C(C)(=O)[O-].[K+]
reactant | (2S,4R)-2-(3,5-bis-trifluoromethyl-phenyl)-N-[6-(4-hydroxy-2-hydroxymethyl-pyrrolidin-1-yl)-4-iodo-pyridin-3-yl]-N-methyl-isobutyramide | 0.16 mmol, 0.10 g | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)C=1C=NC(=CC1I)N1[C@@H](C[C@H](C1)O)CO)(C)C)(F)F | C23H24F6IN3O3
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | N,N-dimethylformamide | 2.5 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
catalyst | dichloro[1,1′-bis(diphenylphosphino) ferrocene]palladium(II) dichloromethane adduct | 0.02 mmol, 0.02 g | C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C(Cl)Cl.Cl[Pd]Cl.[Fe]
product | (2S,4R)-2-(3,5-Bis-trifluoromethyl-phenyl)-N-[6′-(4-hydroxy-2-hydroxymethyl-pyrrolidin-1-yl)-2-methyl-[3,4′]bipyridinyl-3′-yl]-N-methyl-isobutyramide | 37 mg, 39% | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)C=1C=NC(=CC1C=1C(=NC=CC1)C)N1[C@@H](C[C@H](C1)O)CO)(C)C)(F)F | C29H30F6N4O3
